US08476434B2
Synthesis of 4-methyl-N-(3-(2-(4-methylpiperazin-1-yl)ethoxy)-5-(trifluoromethyl)phenyl)-3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)benzamide
A mixture of N-(3-(2-chloroethoxy)-5-(trifluoromethyl)phenyl)-4-methyl-3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)benzamide (200 mg, 0.38 mmol), 1-methylpiperazine (76 mg, 0.76 mmol) and sodium iodide (catalytic amount) in DMF (5 ml) was heated at 100° C. for 20 hr. After cooling to RT, water (50 ml) was added and the mixture was extracted with EtOAc (3×50 ml). The combined organic layer was washed with brine (3×50 ml) and dried over Na2SO4. The solvent was removed in vacuo and the product was purified by flash column chromatography eluting with MeOH(NH3)/DCM (1 to 5%) to afford the title compound as a light yellow solid. MS m/z=592 [M+1]+. Calc'd for C31H32F3N7O2: 591.6.

reactant | N-(3-(2-chloroethoxy)-5-(trifluoromethyl)phenyl)-4-methyl-3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)benzamide | 0.38 mmol, 200 mg | ClCCOC=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)NC1=NC=CC=C1C1=NC=NC=C1)=O | C26H21ClF3N5O2
reactant | 1-methylpiperazine | 0.76 mmol, 76 mg | CN1CCNCC1 | C5H12N2
reactant | sodium iodide | [I-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-methyl-N-(3-(2-(4-methylpiperazin-1-yl)ethoxy)-5-(trifluoromethyl)phenyl)-3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)benzamide | CC1=C(C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)OCCN2CCN(CC2)C)C=C1)NC1=NC=CC=C1C1=NC=NC=C1 | C31H32F3N7O2
